US06784198B1
Preparation of N-(4-{2-[(5-isopropyl-1,3-thiazol-2-yl)amino]-2-oxoethyl}phenyl)-2-methoxyacetamide
To a solution of 2-methoxyacetic acid (41 μl, 0.53 mmol) in CH2Cl2 (1.5 ml), N-cyclohexylcarbodiimide, N′-methyl polystyrene (0.53 g, loading 2 mmol/g, 1.064 mmol), previously washed with CH2Cl2 (5 ml×3), 4-DMAP (0.032 g, 0.266 mmol) and a solution of 2-(4-aminophenyl)-N-(5-isopropyl-1,3-thiazol-2-yl)acetamide (0.076 g, 0.266 mmol) in CH2Cl2/DMF (0.4 ml/10.6 ml) were added. The reaction mixture was maintained under stirring at room temperature for about 72 hours the resin was filtered, washed with CH2Cl2 (10 ml×3), the filtrated combined, washed with water, 5% hydrochloric acid, water, saturated sodium bicarbonate and water, dried and evaporated.

reactant | 2-methoxyacetic acid | 0.53 mmol, 41 μl | COCC(=O)O | C3H6O3
reactant | 2-(4-aminophenyl)-N-(5-isopropyl-1,3-thiazol-2-yl)acetamide | 0.266 mmol, 0.076 g | NC1=CC=C(C=C1)CC(=O)NC=1SC(=CN1)C(C)C | C14H17N3OS
solvent | CH2Cl2 | 1.5 ml | C(Cl)Cl | CH2Cl2
solvent | N-cyclohexylcarbodiimide | C1(CCCCC1)N=C=N | C7H12N2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-DMAP | 0.266 mmol, 0.032 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 DMF | 0.4 ml | C(Cl)Cl.CN(C)C=O
product | N-(4-{2-[(5-isopropyl-1,3-thiazol-2-yl)amino]-2-oxoethyl}phenyl)-2-methoxyacetamide | C(C)(C)C1=CN=C(S1)NC(CC1=CC=C(C=C1)NC(COC)=O)=O | C17H21N3O3S
